US04474964
In a mixed solution consisting of 50 g of 1,2-dibromoethane, 18.5 g of phenol and 100 ml of water was added dropwise 30 ml of water containing therein 7.9 g of sodium hydroxide at a temperature of 130° C. over 30 minutes with stirring. The reaction solution was further stirred for 6 hours. After completion of the reaction, the organic layer was separated from the reaction solution, washed twice with a saturated aqueous potassium carbonate solution, washed twice with water and dried with anhydrous sodium sulfate. The organic layer was separated by filtration and condensed under reduced pressure to give 34.3 g of 2-phenoxyethyl bromide having a boiling point of 105° C. to 107° C. at 6 mmHg in a yield of 85%.

reactant | 1,2-dibromoethane | 50 g | BrCCBr | C2H4Br2
reactant | phenol | 18.5 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydroxide | 7.9 g | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-phenoxyethyl bromide | 34.3 g, yield of 85% | O(C1=CC=CC=C1)CCBr | C8H9BrO
